US09102654B2
N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide (1c)
A 100 mL three-neck round bottom flask was charged with 3-chloro-1(pyridin-3-yl)-1H-pyrazol-4-amine (1.00 g, 5.14 mmol) and ethyl acetate (10 mL). sodium bicarbonate (1.08 g, 12.9 mmol) was added, followed by dropwise addition of acetic anhydride (0.629 g, 6.17 mmol) at <20° C. The reaction was stirred at 20° C. for 2 hours to afford a suspension, at which point thin layer chromatography analysis [Eluent: ethyl acetate] indicated that the reaction was complete. The reaction was diluted with water (50 mL) and the resulting suspension was filtered. The solid was rinsed with water (10 mL) followed by methanol (5 mL). The solid was further dried under vacuum at 20° C. to afford the desired product as a white solid (0.804 g, 66%): mp 169-172° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.84 (s, 1H), 9.05 (dd, J=2.8, 0.8 Hz, 1H), 8.82 (s, 1H), 8.54 (dd, J=4.7, 1.4 Hz, 1H), 8.20 (ddd, J=8.4, 2.8, 1.4 Hz, 1H), 7.54, (ddd, J=8.3, 4.7, 0.8 Hz, 1H), 2.11 (s, 3H); 13C NMR (101 MHz, DMSO-d6) δ 168.12, 147.46, 139.42, 135.46, 133.60, 125.47, 124.21, 122.21, 120.16, 22.62; EIMS m/z 236 ([M]+).

reactant | 3-chloro-1(pyridin-3-yl)-1H-pyrazol-4-amine | 5.14 mmol, 1.00 g | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 12.9 mmol, 1.08 g | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 6.17 mmol, 0.629 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 mL | O | H2O
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide | 0.804 g, 66% | ClC1=NN(C=C1NC(C)=O)C=1C=NC=CC1 | C10H9ClN4O
